US04485109
A 1.5M solution of n-butyllithium in hexane (150 mL) was added under nitrogen at -70° to a stirred solution of 50 mg of 3-bromobenzotrifluoride in 300 mL of tetrahydrofuran. The mixture was stirred at -70° for 15 min and then allowed to warm to -20°. A solution of 30 g of freshly distilled 1-methyl-4-piperidone in 50 mL of tetrahydrofuran was added slowly, keeping the temperature at -20°. The mixture was then stirred at 0° for 0.5 h, and at room temperature for 3 h. Water and methylene chloride were added and the aqueous layer was extracted several times with methylene chloride. Removal of the solvent from the combined and dried methylene chloride solutions, and short-path distillation of the residue (110°-130° bath temp., 5×10-4 mm Hg [0.07 Pa]) gave 41.6 g of 1-methyl-4-(3'-trifluoromethylphenyl)-4 -piperidinol (I: R1 =Me; R2, R3 =H; R4 =m-trifluoromethylphenyl) as a solid.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-bromobenzotrifluoride | 50 mg | BrC=1C=C(C=CC1)C(F)(F)F | C7H4BrF3
reactant | 1-methyl-4-piperidone | CN1CCC(CC1)=O | C6H11NO
reactant | Water | O | H2O
solvent | hexane | 150 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-methyl-4-(3'-trifluoromethylphenyl)-4 -piperidinol | 41.6 g | CN1CCC(CC1)(O)C1=CC(=CC=C1)C(F)(F)F | C13H16F3NO
